US09290499B2
1-(4-hydroxy-cyclohexyl)-3-bromo-N-butyl-1H-pyrazolo[3,4-d]pyrimidin-6-amine
To a solution of 3-bromo-N-butyl-1H-pyrazolo[3,4-d]pyrimidin-6-amine (122 mg, 0.45 mmol) and 4-hydroxy-cyclohexyl chloride (260 mg, 1.9 mmol) in DMF (6.0 mL) was added K2CO3 (270 g, 2.0 mmol). The mixture was heated at 150° C. for overnight. After the reaction was cooled to room temperature, the reaction was quenched with H2O. The reaction mixture was partitioned in H2O and EtOAc. The aqueous phase was extracted with EtOAc (3×). The combined organic phase were dried (Na2SO4) and concentrated. The residue was purified by Isco to provide a mixture of cis- and trans-1-(4-hydroxy-cyclohexyl)-3-bromo-N-butyl-1H-pyrazolo[3,4-d]pyrimidin-6-amine (90 mg, 54%) as a yellow solid.

reactant | 3-bromo-N-butyl-1H-pyrazolo[3,4-d]pyrimidin-6-amine | 0.45 mmol, 122 mg | BrC1=NNC2=NC(=NC=C21)NCCCC | C9H12BrN5
reactant | 4-hydroxy-cyclohexyl chloride | 1.9 mmol, 260 mg | OC1CCC(CC1)Cl | C6H11ClO
reactant | K2CO3 | 2.0 mmol, 270 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
product | 1-(4-hydroxy-cyclohexyl)-3-bromo-N-butyl-1H-pyrazolo[3,4-d]pyrimidin-6-amine | OC1CCC(CC1)N1N=C(C=2C1=NC(=NC2)NCCCC)Br | C15H22BrN5O
